US06710056B2
2-Aminobenzimidazole-5-carboxylic acid hydrochloride:
320 mg of methyl 2-aminobenzimidazole-5-carboxylate was stirred in 3 M of hydrochloric acid at 65° C. overnight, and the solvent was evaporated to obtain the title compound.

reactant | methyl 2-aminobenzimidazole-5-carboxylate | 320 mg | NC=1NC2=C(N1)C=CC(=C2)C(=O)OC | C9H9N3O2
reactant | hydrochloric acid | 3 M | Cl | ClH
product | 2-Aminobenzimidazole-5-carboxylic acid hydrochloride | Cl.NC=1NC2=C(N1)C=CC(=C2)C(=O)O | InChI=1S/C8H7N3O2.ClH/c9-8-10-5-2-1-4(7(12)13)3-6(5)11-8;/h1-3H,(H,12,13)(H3,9,10,11);1H
